### PR TITLE
[Merged by Bors] - feat(Chebyshev/Orthogonality): Chebyshev T polynomials are orthogonal

### PR DESCRIPTION
**Pull request by YuvalFilmus**
We prove that the Chebyshev T polynomials are orthogonal with respect to `1 / √ (1 - x ^ 2)`.
Similarly, one could show that the Chebyshev U polynomials are orthogonal with respect to `√ (1 - x ^ 2)`, which I will do once this PR is approved.

More generally, one defines an inner product space on the space of all real polynomials, where the inner product is as defined above.
I will be happy to add this to the present or a future PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+
+## Main statements
+
+* integrable_T_real_mul_T: `T_n (x) * T_m (x) * (1 / √ (1 - x ^ 2))` is integrable.
+* integral_T_real_mul_T_real_of_ne: if `n ≠ m` then the integral equals `0`.
+* integral_T_real_mul_self_zero: if `n = m = 0` then the integral equals `π`.
+* integral_T_real_mul_self_of_ne_zero: if `n = m ≠ 0` then the integral equals `π / 2`.
+
+-/
+@[expose] public section
```
Comment (wwylele) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: I think `@[expose]` was a temporary compatibility measure and [Mathlib is gradually removing them](https://github.com/leanprover-community/mathlib4/pull/33581). This new file only has `theorem`s so I don't think `@[expose]` is needed

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+open Real intervalIntegral
+
+theorem integrable_poly_T (P : ℝ[X]) :
+    IntervalIntegrable (fun x => P.eval x * (1 / √(1 - x ^ 2))) MeasureTheory.volume (-1) 1 := by
+  refine IntervalIntegrable.continuousOn_mul ?_ P.continuous.continuousOn
+  rw [intervalIntegrable_iff]
+  refine integrableOn_deriv_of_nonneg (g := -arccos)
+    continuous_arccos.neg.continuousOn (fun x hx => ?_) (by simp)
+  · convert (@hasDerivAt_arccos x (by aesop) (by aesop)).neg using 1
+    simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: There's really nothing here specific to polynomials. You should just prove:
```suggestion
theorem intervalIntegrable_sqrt_one_sub_sq_inv :
    IntervalIntegrable (fun x ↦ √(1 - x ^ 2)⁻¹) MeasureTheory.volume (-1) 1 := by
  rw [intervalIntegrable_iff]
  refine integrableOn_deriv_of_nonneg continuous_arccos.neg.continuousOn (fun x hx ↦ ?_) (by simp)
  simpa using (hasDerivAt_arccos (by aesop) (by aesop)).neg
```
(Note: you should also change from `1 / √(1 - x ^ 2)` to `√(1 - x ^ 2)⁻¹` everywhere as that is the `simp` normal form. Although if you wanted to write `f x / √(1 - x ^ 2)` that would be fine too, but I understand your wanting to keep it separate because you think of it as a density.)

And then you can inline your polynomial result wherever you need it as `intervalIntegrable_sqrt_one_sub_sq_inv.continuousOn_mul (by fun_prop)`

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+  ∫ x in -1..1, (T ℝ n).eval x * (1 / √(1 - x ^ 2)) =
+    ∫ x in 1..-1, (T ℝ n).eval x * -(1 / √(1 - x ^ 2)) := by
+    rw [integral_symm, ← integral_neg]
+    simp
+  _ = ∫ θ in (arccos 1)..(arccos (-1)), (T ℝ n).eval (cos θ) := by
+    have h : arccos '' Set.uIcc 1 (-1) = Set.Icc 0 π := by
+      refine Set.ext fun θ => ⟨fun hθ => ?_, fun hθ => ⟨cos θ, ⟨?_, ?_⟩⟩⟩
+      · grind only [= Set.mem_image, = Set.mem_Icc, !arccos_nonneg, !arccos_le_pi]
+      · simp [cos_le_one, neg_one_le_cos]
+      · exact arccos_cos (Set.mem_Icc.mp hθ).1 (Set.mem_Icc.mp hθ).2
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: You should just make `cos` and `arccos` into a `PartialEquiv`, like this:
```lean
/-- `Real.cos` and `Real.arccos` as a (partial) equivalence from `Set.Icc 0 π` to
`Set.Icc (-1) 1`. -/
@[simps, expose]
noncomputable def Real.cosPartialEquiv : PartialEquiv ℝ ℝ where
  toFun θ := cos θ
  invFun x := arccos x
  source := Set.Icc 0 π
  target := Set.Icc (-1) 1
  map_source' x hx := by simpa [← abs_le] using abs_cos_le_one x
  map_target' θ hθ := ⟨Real.arccos_nonneg θ, Real.arccos_le_pi θ⟩
  left_inv' θ hθ := arccos_cos (by aesop) (by aesop)
  right_inv' x hx := cos_arccos (by aesop) (by aesop)
```
at which point, you can prove this in one line as:
```lean
  simpa using Real.cosPartialEquiv.symm.image_source_eq_target
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+  rw [intervalIntegrable_iff]
+  refine integrableOn_deriv_of_nonneg (g := -arccos)
+    continuous_arccos.neg.continuousOn (fun x hx => ?_) (by simp)
+  · convert (@hasDerivAt_arccos x (by aesop) (by aesop)).neg using 1
+    simp
+
+theorem integral_T_real (n : ℤ) :
+    ∫ x in -1..1, (T ℝ n).eval x * (1 / √(1 - x ^ 2)) = ∫ θ in 0..π, cos (n * θ) := calc
+  ∫ x in -1..1, (T ℝ n).eval x * (1 / √(1 - x ^ 2)) =
+    ∫ x in 1..-1, (T ℝ n).eval x * -(1 / √(1 - x ^ 2)) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: This entire statement should be generalized (of course, these are bad names), and then you can prove the version specific to `T` as a corollary.

```lean
@[simp]
lemma arccos_image_Icc : arccos '' Set.Icc (-1) 1 = Set.Icc 0 π := by
  simpa using Real.cosPartialEquiv.symm.image_source_eq_target

open MeasureTheory Set in
theorem foo (f : ℝ → ℝ) (hf₁ : ContinuousOn (fun θ ↦ f (cos θ)) (Ioo 0 π))
    (hf₂ : IntegrableOn (fun x ↦ f (cos x)) (Icc 0 π))
    (hf₃ : IntegrableOn (fun x ↦ f x * √(1 - x ^ 2)⁻¹) (Icc (-1) 1)) :
    ∫ x in -1..1, f x * √(1 - x ^ 2)⁻¹ = ∫ θ in 0..π, f (cos θ) := calc
  ∫ x in -1..1, f x * √(1 - x ^ 2)⁻¹ =
    ∫ x in 1..-1, f x * -(√(1 - x ^ 2)⁻¹) := by
    rw [integral_symm, ← intervalIntegral.integral_neg]
    simp
  _ = ∫ θ in (arccos 1)..(arccos (-1)), f (cos θ) := by
    rw [← integral_comp_mul_deriv''' (f' := fun x => -(1 / √ (1 - x ^ 2))) (by fun_prop)
      (fun x hx ↦ (hasDerivAt_arccos (by aesop) (by aesop)).hasDerivWithinAt)]
    · simp_rw [Function.comp_apply]
      exact integral_congr <| fun x hx => by simp [cos_arccos (x := x) (by aesop) (by aesop)]
    · simpa using hf₁.mono <| by simpa using Real.strictAntiOn_arccos.image_Ioo_subset
    · simpa
    · refine IntegrableOn.congr_fun
        (by simpa only [neg_le_self_iff, zero_le_one, uIcc_of_ge] using hf₃.neg)
        (fun x hx ↦ ?_) (by simp)
      simp only [sqrt_inv, Pi.neg_apply, Function.comp_apply, one_div, mul_neg,
        cos_arccos (x := x) (by aesop) (by aesop)]
  _ = ∫ θ in 0..π, f (cos θ) := by simp

-- we provide this version for convenience.
open Set in
theorem bar (f : ℝ → ℝ) (hf : ContinuousOn f (Icc (-1) 1)) :
    ∫ x in -1..1, f x * √(1 - x ^ 2)⁻¹ = ∫ θ in 0..π, f (cos θ) := by
  have : ContinuousOn (fun θ ↦ f (cos θ)) (Icc 0 π) := by
    refine hf.comp_continuous (by fun_prop) ?_ |>.continuousOn
    simpa [← abs_le] using abs_cos_le_one
  refine foo f (this.mono Ioo_subset_Icc_self) this.integrableOn_Icc ?_
  simpa using Iff.mp intervalIntegrable_iff' <|
    intervalIntegrable_sqrt_one_sub_sq_inv.continuousOn_mul <| by simpa
```

**Review by j-loreaux — COMMENTED** [review]
Is there a reason you chose to do all this with explicit multiplication instead of using `MeasureTheory.Measure.withDensity`? Even if you end up keeping it this way, I think you should provide that link.

**Comment by YuvalFilmus** [comment]
> Is there a reason you chose to do all this with explicit multiplication instead of using `MeasureTheory.Measure.withDensity`? Even if you end up keeping it this way, I think you should provide that link.

Mainly lack of documentation.
I followed the path of least resistance.
Will try to switch to withDensity.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 5]
```diff
@@ -0,0 +1,172 @@
...
+
+-/
+public section
+
+namespace Polynomial.Chebyshev
+
+open Real intervalIntegral MeasureTheory
+
+/-- Lebesgue measure scaled by √(1 - x ^ 2)⁻¹. -/
+noncomputable def chebMeasT : Measure ℝ :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: Since we're already in the `Polynomial.Chebyshev` namespace.
```suggestion
noncomputable def measureT : Measure ℝ :=
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 6]
```diff
@@ -0,0 +1,172 @@
...
+  (volume.withDensity
+    fun x ↦ ENNReal.ofNNReal ⟨√(1 - x ^ 2)⁻¹, by positivity⟩).restrict (Set.Ioc (-1) 1)
+
+theorem integral_chebMeasT (f : ℝ → ℝ) :
+    ∫ x, f x ∂chebMeasT = ∫ x in -1..1, (f x) * √(1 - x ^ 2)⁻¹ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]:
```suggestion
    ∫ x, f x ∂chebMeasT = ∫ x in -1..1, f x * √(1 - x ^ 2)⁻¹ := by
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+  rw [intervalIntegrable_iff, Set.uIoc_of_le (by norm_num)] at this
+  rw [chebMeasT, restrict_withDensity (by measurability),
+    integrable_withDensity_iff (by measurability) (by simp)]
+  unfold IntegrableOn at this
+  convert this
+
+/-- `Real.cos` and `Real.arccos` as a (partial) equivalence from `Set.Icc 0 π` to
+`Set.Icc (-1) 1`. -/
+@[simps, expose]
+noncomputable def Real.cosPartialEquiv : PartialEquiv ℝ ℝ where
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: This belongs in a different file (probably wherever `arccos` is defined).

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 8]
```diff
@@ -0,0 +1,172 @@
...
+  source := Set.Icc 0 π
+  target := Set.Icc (-1) 1
+  map_source' x hx := by simpa [← abs_le] using abs_cos_le_one x
+  map_target' θ hθ := ⟨Real.arccos_nonneg θ, Real.arccos_le_pi θ⟩
+  left_inv' θ hθ := arccos_cos (by aesop) (by aesop)
+  right_inv' x hx := cos_arccos (by aesop) (by aesop)
+
+@[simp]
+lemma arccos_image_Icc : arccos '' Set.Icc (-1) 1 = Set.Icc 0 π := by
+  simpa using Real.cosPartialEquiv.symm.image_source_eq_target
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: likewise

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+    (hf : ContinuousOn f (Icc (-1) 1)) :
+    ∫ x, f x ∂chebMeasT = ∫ θ in 0..π, f (cos θ) := by
+  have : ContinuousOn (fun θ ↦ f (cos θ)) (Icc 0 π) := by
+    refine hf.comp_continuous (by fun_prop) ?_ |>.continuousOn
+    simpa [← abs_le] using abs_cos_le_one
+  refine integral_chebMeasT_eq_integral_cos (this.mono Ioo_subset_Icc_self) this.integrableOn_Icc ?_
+  simpa using Iff.mp intervalIntegrable_iff' <|
+    intervalIntegrable_sqrt_one_sub_sq_inv.continuousOn_mul <| by simpa
+
+theorem integral_T_real_zero :
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]:
```suggestion
theorem integral_eval_T_real_measureT_zero :
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 10]
```diff
@@ -0,0 +1,172 @@
...
+    ∫ x, (T ℝ 0).eval x ∂chebMeasT = π := by
+  rw [integral_chebMeasT_eq_integral_cos_of_continuous (by fun_prop)]; simp
+
+theorem integral_T_real_of_ne_zero {n : ℤ} (hn : n ≠ 0) :
+    ∫ x, (T ℝ n).eval x ∂chebMeasT = 0 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]:
```suggestion
theorem integral_eval_T_real_measureT_eq_zero {n : ℤ} (hn : n ≠ 0) :
    ∫ x, (T ℝ n).eval x ∂chebMeasT = 0 := by
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 11]
```diff
@@ -0,0 +1,172 @@
...
+  trans ∫ θ in 0..n * π, (deriv sin) θ
+  · refine integral_congr <| fun x hx => (congrFun deriv_sin x).symm
+  by_cases! 0 ≤ n
+  case pos => rw [integral_deriv_of_contDiffOn_Icc contDiff_sin.contDiffOn (by positivity)]; simp
+  case neg hn =>
+    rw [integral_symm, integral_deriv_of_contDiffOn_Icc contDiff_sin.contDiffOn]
+    · simp
+    exact mul_nonpos_of_nonpos_of_nonneg (Int.cast_nonpos.mpr <| le_of_lt hn) pi_nonneg
+
+theorem integral_T_real_mul_T_real (n m : ℤ) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: likewise, I think the rest have naming issues here.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 12]
```diff
@@ -0,0 +1,172 @@
...
+
+Chebyshev T polynomials are orthogonal with respect to `√(1 - x ^ 2)⁻¹`.
+
+## Main statements
+
+* integrable_chebMeasT: continuous functions are integrable with respect to Lebesgue measure
+  scaled by `√(1 - x ^ 2)⁻¹` and restricted to `(-1, 1]`.
+* integral_T_real_mul_T_real_of_ne: if `n ≠ m` then the integral of `T_n * T_m` equals `0`.
+* integral_T_real_mul_self_zero: if `n = m = 0` then the integral equals `π`.
+* integral_T_real_mul_self_of_ne_zero: if `n = m ≠ 0` then the integral equals `π / 2`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: I would add a TODO here to bundle the Chebyshev polynomials into a [HilbertBasis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/l2Space.html#HilbertBasis) for [MeasureTheory.Lp ℝ 2 measureT](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSpace/Basic.html#MeasureTheory.Lp)

**Review by j-loreaux — COMMENTED** [review]
I expect it will probably be ready after this next set of changes.

**Review by j-loreaux — COMMENTED** [review]
bors merge
